US06656947B2
2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-ethyl-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline
Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester (1.0 g, mmole) was suspended in triethyl orthopropionate (20 mL) and the mixture refluxed under nitrogen for 18 hours. The reaction mixture was cooled and the solvent evaporated under vacuum. The residue was dissolved in methylene chloride, the solution washed with saturated sodium chloride solution, dried over magnesium sulfate and the solvent evaporated to a gum (1.5 g). This residue was dried under vacuum and dissolved in a mixture of DMF/THF 1:1 v/v (100 mL). 3-(1,2,3,6-Tetrahydro-4-pyridinyl)-1H-indole (1.2 g, 6 mmole) and sodium bicarbonate (3.0 g) were added and the mixture refluxed under nitrogen for 20 hours. The reaction mixture was cooled, and the solvent evaporated under vacuum. The residue was partitioned between methylene chloride and water. The layers were separated. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and the solvent removed under vacuum. The crude oil obtained (2.0 g) was chromatographed on silica gel using 2% methanol in chloroform, followed by 3% methanol in chloroform as eluants to give the (S)-enantiomer of the title compound (52 mg), m.p. 203-211° C.

reactant | Toluene-4-sulfonic acid (2R)-7-amino-8-(hydroximino-methyl)2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester | 1.0 g | NC=1C=CC2=C(O[C@H](CO2)COS(=O)(=O)C2=CC=C(C=C2)C)C1C=NO | C17H18N2O6S
reactant | 3-(1,2,3,6-Tetrahydro-4-pyridinyl)-1H-indole | 6 mmole, 1.2 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium bicarbonate | 3.0 g | C([O-])(O)=O.[Na+]
reactant | triethyl orthopropionate | 20 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 2-[(4-(1H-Indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl]-8-ethyl-2,3-dihydro[1,4]dioxino[2,3-f]quinazoline | 52 mg | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C(=C3C=NC(=NC3=CC2)CC)O1 | C26H26N4O2
